US08138345B2
Preparation of 3-(Acryloylmethylamino)benzoic Acid Methyl Ester
To a stirred mixture of 3-methylaminobenzoic acid methyl ester (3.11 g, 18.8 mmol) and sodium bicarbonate (3.16 g, 37.6 mmol) in DCM (20.0 mL) at 0° C. was added 2-propenyl chloride (2.29 mL, 28.2 mmol). The reaction mixture was stirred overnight at room temperature. Saturated aqueous sodium bicarbonate solution was added and the layers were separated. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (4.12 g, 100% yield), which was used in the next reaction without further purification.

reactant | 3-methylaminobenzoic acid methyl ester | 18.8 mmol, 3.11 g | COC(C1=CC(=CC=C1)NC)=O | C9H11NO2
reactant | sodium bicarbonate | 37.6 mmol, 3.16 g | C([O-])(O)=O.[Na+]
reactant | 2-propenyl chloride | 28.2 mmol, 2.29 mL | C(C=C)Cl | C3H5Cl
solvent | DCM | 20.0 mL | C(Cl)Cl | CH2Cl2
product | 3-(Acryloylmethylamino)benzoic Acid Methyl Ester | 4.12 g, 100% yield | COC(C1=CC(=CC=C1)NCC(C=C)=O)=O | C12H13NO3
